US04166120
A sample of 4-chloro-2-fluorobenzyl bromide is converted to its Grignard reagent which is reacted with N-benzyl-4-piperidone to provide 1-benzyl-4-(4-chloro-2-fluorobenzyl)-4-piperidinol. The above is performed in a manner consistent with the procedure of Example 2A. This product is distilled at 175°-180° C., 0.18 mm to provide an orange oil which is converted in ether to its hydrogen chloride salt. The salt is recrystallized four times from an ethyl alcohol-ether mixture to provide the purified salt, m.p. 211.5°-213° C.

reactant | 4-chloro-2-fluorobenzyl bromide | ClC1=CC(=C(CBr)C=C1)F | C7H5BrClF
reactant | N-benzyl-4-piperidone | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
product | 1-benzyl-4-(4-chloro-2-fluorobenzyl)-4-piperidinol | C(C1=CC=CC=C1)N1CCC(CC1)(O)CC1=C(C=C(C=C1)Cl)F | C19H21ClFNO
